US04952397
p-Nitrobenzyl nicotinate
A Suspension of nicotinic acid (5.00 g, 40.6 mmol) in N,N-dimethylformaide (40 ml) was treated with sodium methoxide (2.19 g, 40.6 mmol). The resulting solution was treated with p-nitrobenzylbromide (8.77 g, 40.6 mmol) and heated at 50°, After heating 16 hrs the reaction was allowed to cool to ambient temperature and diluted with ethyl acetate (100 ml) and saturated aqueous sodium bicarbonate solution and filtered. The organic fraction was separated and washed with water, brine, dried over anhydrous magnesium sulfate, filtered and evaporated under vacuum to a solid.

reactant | nicotinic acid | 40.6 mmol, 5.00 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | sodium methoxide | 40.6 mmol, 2.19 g | C[O-].[Na+]
reactant | p-nitrobenzylbromide | 40.6 mmol, 8.77 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | p-Nitrobenzyl nicotinate | C(C1=CN=CC=C1)(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H10N2O4
